US04786644
A solution of 15.0 g of 1,2-dihydro-4-hydroxy-1-phenyl-N-phenyl-3-quinolinecarboxamide in 250 ml of toluene was treated with 60.0 g of activated manganese dioxide and stirred at room temperature for four hours. The slurry was filtered and evaporated. The residue was purified first by flash chromatography (silica gel: dichloromethane as eluent), and then by high pressure liquid chromatography (silica gel: dichloromethane). Recrystallization of the residue from dichloromethane yielded 6.75 g (45%) of 1,4-dihydro-4-oxo-1-phenyl-N-phenyl-3-quinolinecarboxamide, m.p. 203°-205° C.

reactant | 1,2-dihydro-4-hydroxy-1-phenyl-N-phenyl-3-quinolinecarboxamide | 15.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1 | C22H18N2O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 60.0 g | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-4-oxo-1-phenyl-N-phenyl-3-quinolinecarboxamide | 6.75 g, 45% | O=C1C(=CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1 | C22H16N2O2
